US07408063B2
nBuLi 1.6M in hexane (0.0086 mol) was added at −78° C. to a solution of 2,4-dihydro-4-methyl-3H-1,2,4-triazole-3-thione (0.0043 mol) in THF (25 ml) under N2 flow. The mixture was stirred at 0° C. for 1 hour, then cooled to −78° C. 8-(4-chlorobenzoyl)-6-(3-chlorophenyl)-2H,4H-oxazolo[5,4,3-ij]quinolin-4-one (0.0024 mol) described in International Publication WO98/40383, was added portionwise. The mixture was stirred at room temperature for 4 hours, poured out into ice water and extracted with EtOAc. The organic layer was separated, dried (MgSO4), filtered, and the solvent was evaporated. The residue (1.38 g) was purified by column chromatography over silica gel (15-40 μm) (eluent: CH2Cl2/CH3OH/NH4OH97/3/0.1). The pure fractions were collected and the solvent was evaporated. A part of the residue (0.049 g) was purified by column chromatography over silica gel (10 μm) (eluent: CH2Cl2/CH3OH 98/2). The pure fractions were collected and the solvent was evaporated, yielding 0.018 g (1%) of 6-(3-chlorophenyl)-8-[(4-chlorophenyl)hydroxy(5-mercapto-4-methyl-4H-1,2,4-triazol-3-yl)methyl]-2H,4H-oxazolo[5,4,3-ij]quinolin-4-one, melting point: 193° C. (intermediate 13).

reactant | nBuLi | 1.6M | [Li]CCCC
reactant | hexane | 0.0086 mol | CCCCCC | C6H14
reactant | 2,4-dihydro-4-methyl-3H-1,2,4-triazole-3-thione | 0.0043 mol | CN1C(NN=C1)=S | C3H5N3S
reactant | 8-(4-chlorobenzoyl)-6-(3-chlorophenyl)-2H,4H-oxazolo[5,4,3-ij]quinolin-4-one | 0.0024 mol | ClC1=CC=C(C(=O)C=2C=C3C(=CC(N4C3=C(C2)OC4)=O)C4=CC(=CC=C4)Cl)C=C1 | C23H13Cl2NO3
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 6-(3-chlorophenyl)-8-[(4-chlorophenyl)hydroxy(5-mercapto-4-methyl-4H-1,2,4-triazol-3-yl)methyl]-2H,4H-oxazolo[5,4,3-ij]quinolin-4-one | 0.018 g, 1% | ClC=1C=C(C=CC1)C1=CC(N2C3=C(C=C(C=C13)C(C1=NN=C(N1C)S)(O)C1=CC=C(C=C1)Cl)OC2)=O | C26H18Cl2N4O3S
